US06686381B2
(3-Thioureido-propyl)-carbamic Acid tert-Butyl Ester
A solution of 2 g (11.47 mmol) (3-Amino-propyl)-carbamic acid tert-butyl ester in 20 ml THF was treated with 1.62 ml (11.47 mmol) Benzoyl isothiocyanate and stirred for 1 h at room temperature. After removal of the volatiles the residue was suspended in 50 ml methanol and 4.8 g (34.4 mmol) K2CO3 in 50 ml water was added. The mixture was stirred at room temperature for 16 h, concentrated, and extracted with ethyl acetate. The combined organic layers were washed with NaHCO3 sat., brine, dried with MgSO4 and evaporated under reduced pressure. The residue was purified by flash column chromatography on silica eluting with ethyl acetate/heptane. The combined product fractions were evaporated under reduced pressure to yield 1.48 g (74%) of the title compound.

reactant | (3-Amino-propyl)-carbamic acid tert-butyl ester | 11.47 mmol, 2 g | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | Benzoyl isothiocyanate | 11.47 mmol, 1.62 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | K2CO3 | 34.4 mmol, 4.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | (3-Thioureido-propyl)-carbamic Acid tert-Butyl Ester | 1.48 g, 74% | C(C)(C)(C)OC(NCCCNC(=S)N)=O | C9H19N3O2S
